US04937337
1-[3-(2-Methylpropoxy)-2-pyrrolidinopropyl]-2-phenylindoline.
4 g. 2-Phenylindoline are dissolved in 25 ml. dimethylformamide and the solution mixed with 1.2 g. sodium hydride (50% suspension in oil). The reaction mixture is heated, while stirring, to 80° C. until the evolution of hydrogen is finished. Thereafter, a solution of 4.5 g. 1-[2-chloro-2-(2-methylpropoxy)-propyl]pyrrolidine in 25 ml. dimethylformamide is added dropwise thereto in the course of 15 minutes and stirring continued for 3 hours at 80° C. The reaction mixture is cooled, mixed with water and extracted with methylene chloride. The methylene chloride phase is washed with water, dried over anhydrous sodium sulphate and evaporated. For purification, the residue is chromatographed on a silica gel column (elution agent: toluene/10% ethyl acetate). After evporation of the appropriate column fractions, there are obtained 3.5 g. of the title compound in the form of an oily product.

reactant | 2-Phenylindoline | C1(=CC=CC=C1)C1NC2=CC=CC=C2C1 | C14H13N
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-[2-chloro-2-(2-methylpropoxy)-propyl]pyrrolidine | ClC(CN1CCCC1)(C)OCC(C)C | C11H22ClNO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[3-(2-Methylpropoxy)-2-pyrrolidinopropyl]-2-phenylindoline | CC(COCC(CN1C(CC2=CC=CC=C12)C1=CC=CC=C1)N1CCCC1)C | C25H34N2O
